US07816542B2
To the solution of 2-hydroxy-4-(1-hydroxy-butyl)-benzoic acid methyl ester (132 mg, 0.59 mmol) in DCM (6 mL), is added PDC (245 mg, 1.1 mmol) in one portion. The reaction is stirred overnight. The reaction mixture is filtered through a silica gel plug using DCM as eluent. The filtrate is concentrated to give 4-butyryl-2-hydroxy-benzoic acid methyl ester as a white solid: 1H NMR (400 MHz, CDCl3) δ 10.77 (s, 1H), 7.92 (d, 1H, J=8.4 Hz), 7.52 (d, 1H, J=1.6 Hz), 7.44 (dd, 1H, J=1.6, 8 Hz), 3.99 (s, 3H), 2.93 (t, 2H, J=7.2 Hz), 1.76 (qt, 2H, J=7.6 Hz), 1.00 (t, 3H, J=7.6 Hz).

reactant | 2-hydroxy-4-(1-hydroxy-butyl)-benzoic acid methyl ester | 0.59 mmol, 132 mg | COC(C1=C(C=C(C=C1)C(CCC)O)O)=O | C12H16O4
reactant | PDC | 1.1 mmol, 245 mg | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-butyryl-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C(CCC)=O)O)=O | C12H14O4
